US04490369
(b) 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-2-methyl-2-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane
This compound was prepared analogous to Example 1(b) by reacting 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-2-methyl-3-chloro-propane with N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-2-methyl-3-chloro-propane | COC1=CC2=C(CC(N(C=C2)CC(CCl)C)=O)C=C1OC | C16H20ClNO3
reactant | N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
product | 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-2-methyl-2-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane | COC1=CC2=C(CC(N(C=C2)CC(C)(N(CCC2=CC(=C(C=C2)OC)OC)C)C)=O)C=C1OC | C27H36N2O5
